US05000775
Methyl 5-phenyl-2-{[3-(trifluoromethyl)phenyl]amino}4-thiazolecarboxylate
A reaction vessel was charged with 2.8 g of methyl 5-phenyl-2-chloro-4-thiazolecarboxylate and 9.7 g of meta-aminobenzotrifluoride. The reaction mixture was stirred overnight and then heated and stirred at 150° C. for about 6 hours during which time a crystalline solid appeared. The mixture was treated with ethyl ether and water. The ether extract was dried with magnesium sulfate and concentrated. The residue was crystallized from anhydrous ethyl ether to provide a white amorphous powder (m.p. 147°-149° C.) identified in Table I.

reactant | methyl 5-phenyl-2-chloro-4-thiazolecarboxylate | 2.8 g | C1(=CC=CC=C1)C1=C(N=C(S1)Cl)C(=O)OC | C11H8ClNO2S
reactant | meta-aminobenzotrifluoride | 9.7 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Methyl 5-phenyl-2-{[3-(trifluoromethyl)phenyl]amino}4-thiazolecarboxylate | C1(=CC=CC=C1)C1=C(N=C(S1)NC1=CC(=CC=C1)C(F)(F)F)C(=O)OC | C18H13F3N2O2S
